US07666659B2
Process for Producing ethyl 2-formyl-3-(3,4-methylenedioxyphenyl)-propionate
First, 42.4 g of 60% NaH was suspended in 500 ml of tetrahydrofuran (THF). 84.5 g (purity: 93.7% by weight) of ethyl 3-(3,4-methylenedioxyphenyl)-propionate was dissolved in 100 ml of THF and added dropwise to the suspension solution prepared above at room temperature. After the resultant suspension solution was raised in temperature to 40° C. and stirred for 15 minutes, 131 g of ethyl formate was added dropwise for 2.5 hours to the suspension solution and stirred for a further 3 hours.

reactant | NaH | 42.4 g | [H-].[Na+]
reactant | ethyl 3-(3,4-methylenedioxyphenyl)-propionate | 84.5 g | C1OC=2C=C(C=CC2O1)CCC(=O)OCC | C12H14O4
reactant | ethyl formate | 131 g | C(=O)OCC | C3H6O2
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | THF | 100 ml | O1CCCC1 | C4H8O
product | ethyl 2-formyl-3-(3,4-methylenedioxyphenyl)-propionate | C(=O)C(C(=O)OCC)CC1=CC2=C(C=C1)OCO2 | C13H14O5
